US07429579B2
Trifluoroacetic anhydride (13.2 ml) was added to a solution of 7-cyano-2,3,4,5-tetrahydro-1H-3-benzazepine (14.5 g) and triethylamine (14.2 ml) in dichloromethane (300 ml) at 0° C. The reaction mixture was allowed to warm to room temperature over 1.5 h, then washed with saturated sodium bicarbonate solution (300 ml), the organic layer dried and evaporated to give 3-trifluoracetyl-7-cyano-2,3,4,5-tetrahydro-1H-3-benzazepine as a yellow oil (20.3 g).

reactant | Trifluoroacetic anhydride | 13.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 7-cyano-2,3,4,5-tetrahydro-1H-3-benzazepine | 14.5 g | C(#N)C1=CC2=C(CCNCC2)C=C1 | C11H12N2
reactant | triethylamine | 14.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 3-trifluoracetyl-7-cyano-2,3,4,5-tetrahydro-1H-3-benzazepine | 20.3 g | FC(C(=O)N1CCC2=C(CC1)C=CC(=C2)C#N)(F)F | C13H11F3N2O
